US05589478
2-Chloro-5-bromopyrimidine and 3-thienyltributyltin are treated in the same manner as in Example 190 to give 2-chloro-5-(3-thienyl)pyrimidine.

reactant | 2-Chloro-5-bromopyrimidine | ClC1=NC=C(C=N1)Br | C4H2BrClN2
reactant | 3-thienyltributyltin | S1C=C(C=C1)[Sn](CCCC)(CCCC)CCCC
product | 2-chloro-5-(3-thienyl)pyrimidine | ClC1=NC=C(C=N1)C1=CSC=C1 | C8H5ClN2S
